US08258130B2
A solution of 5-methanesulfonyl-1H-indole (4.1 mmol) and potassium tert-butoxide (8.2 mmol) in DMF (20 mL) is stirred at rt under N2 for 2 h. 0.15 M NH2Cl in ether (41 mL) is added drop-wise for 15 min at rt and the reaction mixture is stirred at rt for 2 h. The reaction mixture is quenched with 10% Na2S2O3 aqueous solution, and extracted with ether (3×40 mL). The combined organic layer is washed with water (2×30 mL) and brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with EtOAc and heptane to afford 5-methanesulfonyl-indole-1-ylamine (230 mg, 32%) as a solid. MS: 211 (M+H); 1H NMR (300 MHz, CDCl3): δ 3.08 (s, 3H), 4.94 (br, 2N—H), 6.55 (d, H), 7.34 (m, H), 7.57 (d, H), 7.73 (m, H), 8.21 (m, H).

reactant | 5-methanesulfonyl-1H-indole | 4.1 mmol | CS(=O)(=O)C=1C=C2C=CNC2=CC1 | C9H9NO2S
reactant | potassium tert-butoxide | 8.2 mmol | CC(C)([O-])C.[K+]
reactant | NH2Cl | 0.15 M | NCl | ClH2N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ether | 41 mL | CCOCC | C4H10O
product | 5-methanesulfonyl-indole-1-ylamine | 230 mg, 32% | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)N | C9H10N2O2S
